US09353075B2
Step 2. Preparation of (2R,3S)-3-Hydroxy-2-(phenethyloxycarbonylamino)-butanoic acid
To a stirred mixture of D-threonine (0.150 g, 1.25 mmol) and NaHCO3 (0.158 g, 1.89 mmol) in H2O (3.5 mL), the crude mixture containing phenethyl-2-pyridyl-carbonate and phenethyl-2-oxopyridine 1-carboxylate (0.459 g, 1.89 mmol) in THF (3.5 mL) was added. After 15 h at rt, the crude mixture was rotary evaporated to remove the organics and subsequently extracted with Et2O (3×5 mL). The aqueous phase was acidified with 2M HCl solution to pH 2-3 and subsequently extracted with AcOEt (3×10 mL). The organic fraction was dried over Na2SO4, filtered and concentrated to dryness to afford the title compound (0.35 g, 89%) as transparent oil, which was used in the next step without further purification. MS (ESI) m/z: 268 [M−H]+; (ESI) m/z: 266 [M−H]−. 1H NMR (DMSO-d6): δ 1.09 (d, J=6.4 Hz, 3H), 2.89 (t, J=6.9 Hz, 2H), 3.94 (dd, J=3.4, 9.0 Hz, 1H), 4.04-4.11 (m, 1H), 4.13-4.24 (m, 2H), 6.75 (d, J=9.0 Hz, 1H), 7.20-7.33 (m, 5H) 11.95 (br s, 1H).

reactant | D-threonine | 1.25 mmol, 0.150 g | N[C@H]([C@@H](O)C)C(=O)O | C4H9NO3
reactant | NaHCO3 | 1.89 mmol, 0.158 g | C(=O)(O)[O-].[Na+]
reactant | phenethyl-2-oxopyridine 1-carboxylate | 1.89 mmol, 0.459 g | C(CC1=CC=CC=C1)OC(=O)N1C(C=CC=C1)=O | C14H13NO3
solvent | H2O | 3.5 mL | O | H2O
solvent | THF | 3.5 mL | C1CCOC1 | C4H8O
product | (2R,3S)-3-Hydroxy-2-(phenethyloxycarbonylamino)-butanoic acid | 0.35 g, 89% | O[C@H]([C@H](C(=O)O)NC(=O)OCCC1=CC=CC=C1)C | C13H17NO5
